Name:  ___                  Unit No:   ___
 
Admission Date:  ___              Discharge Date:   ___
 
Date of Birth:  ___             Sex:   M
 
Service: MEDICINE
 
Allergies: 
No Known Allergies / Adverse Drug Reactions
 
Attending: ___.
 
Chief Complaint:
Fever, total body pain, vomiting, weight loss 

 
Major Surgical or Invasive Procedure:
None

 
History of Present Illness:
___ male with a history of recent travel to the 
___, who presents with fever, total body pain, 
vomiting, and 10 pound weight loss. 

Patient reports that he returned from the ___ 
approximately 2 weeks ago. Immediately upon return to the ___ he 
presented to ___ for a vesicular penile rash with an associated 
burning sensation. He was diagnosed with herpes and started on 
Valtrex. Per pt., STD testing was otherwise negative. 

Following initiation of therapy with Valtrex, he started 
noticing diffuse joint stiffness and pain with associated 
intermittent subjective fevers (for which he has been taking 
Tylenol and Motrin with little effect), anorexia, fatigue, 
dizziness. He attributed his symptoms to the Valtrex, but 
presented to the ED
yesterday when his symptoms continued to worsen even after 
completion of Valtrex. Also notes that he has had nausea and 
vomiting (with minimal blood) for the last ___ days. In 
addition, has lost ~10 lbs due to loss of appetite. He was not 
taking any malaria prophylaxis while in the ___. ___ is the 
first time he has experienced symptoms like those. Only travels 
to the ___ infrequently ___ recently ___ year ago, before that 
not for ___ years). 

In the ED, initial vitals were notable for T 102.6, BP 127/78, 
HR 116, RA
- Exam: Ill-appearing male, dry mucous membranes. Lungs clear to 
auscultation. Regular rate and rhythm. Abdomen soft, tender to 
palpation the epigastrium. No rebound or guarding. No CVA 
tenderness. No rash.
- Labs: WBC 2.1, plt 102, hgb 16.9, Na 132, Cr 1.0, ALT 51, AST 
50, LDH 311, parasite smear negative, hapto 140, CRP 9.0, 
lactate 1.1, Hep B and C serologies negative, HAV IgM pending, 
flu negative
- Imaging: CXR negative
- Pt given: Tylenol, 2L LR, Benadryl 25

On the floor, the patient reports markedly improvement in his 
symptoms follow the treatment in the ED.

 
Past Medical History:
None
 
Social History:
___
Family History:
no current family members who traveled to the ___ 
with him with similar sx
 
Physical Exam:
ADMISSION PHYSICAL
Temp: 102.6 HR: 116 BP: 127/78 Resp: 16 O2 Sat: 100
General: Young, athletic man, Ill-appearing, dry mucous 
membranes
HEENT: Sclerae anicteric, MMM, oropharynx clear, EOMI, PERRL,
neck supple, JVP not elevated, no LAD  
CV: Regular rate and rhythm, normal S1 + S2, no murmurs, rubs,
gallops  
Lungs: Clear to auscultation bilaterally, no wheezes, rales, 
rhonchi  
Abdomen: Soft, non-tender, non-distended, bowel sounds present, 
no organomegaly, no rebound or guarding  
Ext: No joint swelling or tenderness. Extremities are warm, well 
perfused, 2+ pulses, no clubbing, cyanosis or edema  
Skin: Warm, dry, no rashes or notable lesions.  
Neuro: Face symmetric, no dysarthria, moving all extremities 
with purpose

DISCHARGE PHYSICAL
___ 0012 Temp: 97.9 PO BP: 102/64 L Lying HR: 68 O2 sat: 
98%
O2 delivery: Ra 
General: Young, athletic man, sitting in bed, in no apparent 
distress 
HEENT: Sclerae anicteric, MMM, oropharynx clear, EOMI, PERRL, 
neck supple, no LAD  
CV: Regular rate and rhythm, normal S1 + S2, no murmurs, rubs, 
gallops  
Lungs: Clear to auscultation bilaterally, no wheezes, rales, 
rhonchi  
Abdomen: Soft, non-tender, non-distended, no organomegaly, no 
rebound or guarding  
Ext: No joint swelling or tenderness. Extremities are warm, well 
perfused, 2+ pulses, no clubbing, cyanosis or edema  
Skin: Warm, dry, no rashes or notable lesions. Multiple brown 
non-raised ~3-5mm macular lesions on the patient's back which he 
notes to not be new.  
Neuro: Face symmetric, no dysarthria, moving all extremities 
with purpose
 
Pertinent Results:
ADMISSION LABS
___ 07:30PM BLOOD WBC-2.1* RBC-6.11* Hgb-16.9 Hct-49.6 
MCV-81* MCH-27.7 MCHC-34.1 RDW-12.7 RDWSD-37.0 Plt ___
___ 07:30PM BLOOD Neuts-66 Bands-11* Lymphs-9* Monos-9 
Eos-0* Baso-1 Atyps-4* AbsNeut-1.62 AbsLymp-0.27* AbsMono-0.19* 
AbsEos-0.00* AbsBaso-0.02
___ 05:20PM BLOOD ___ PTT-33.7 ___
___ 07:30PM BLOOD Parst S-NEGATIVE
___ 07:30PM BLOOD Glucose-109* UreaN-10 Creat-1.0 Na-132* 
K-3.8 Cl-94* HCO3-22 AnGap-16
___ 07:30PM BLOOD ALT-51* AST-50* LD(LDH)-311* CK(CPK)-56 
AlkPhos-58 TotBili-0.6 DirBili-<0.2 IndBili-0.6
___ 07:30PM BLOOD Lipase-34
___ 07:30PM BLOOD Albumin-4.7
___ 07:30PM BLOOD Hapto-140
___ 07:30PM BLOOD CRP-9.0*
___ 09:41PM URINE Blood-NEG Nitrite-NEG Protein-100* 
Glucose-NEG Ketone-40* Bilirub-NEG Urobiln-NEG pH-7.5 Leuks-NEG
___ 09:41PM URINE RBC-1 WBC-2 Bacteri-NONE Yeast-NONE 
Epi-<1
___ 12:47AM BLOOD Lactate-1.1

PERTINENT LABS
___ 07:30PM BLOOD Parst S-NEGATIVE
___ 05:51PM BLOOD Parst S-NEGATIVE
___ 05:35AM BLOOD HBsAg-NEG HBsAb-NEG HBcAb-NEG IgM HAV-NEG
___ 05:51PM BLOOD Trep Ab-NEG
___ 09:25AM BLOOD EBV IgG-POS* EBNA-POS* EBV IgM-NEG 
EBVI-Results in
___ 08:03AM BLOOD CMV IgG-POS* CMV IgM-Equivocal* CMVI-CMV 
infection at undetermined time
___ 03:50PM BLOOD HIV Ab-NEG
___ 05:51PM BLOOD HCV Ab-NEG
___ 05:35AM BLOOD HCV VL-NOT DETECT
___ 07:33AM BLOOD ANAPLASMA PHAGOCYTOPHILUM DNA, 
QUALITATIVE-not detected
___ 04:06AM BLOOD ANAPLASMA PHAGOCYTOPHILUM DNA, 
QUALITATIVE-not detected
___ 05:51PM BLOOD BABESIA ANTIBODIES, IGG <1:64, IgM <1:20
___ 08:03AM BLOOD PARVOVIRUS B19 ANTIBODIES (IGG & IGM)-IgG 
7.55 (high) IgM <0.9
___ 09:25AM BLOOD ANAPLASMA PHAGOCYTOPHILUM (HUMAN 
GRANULOCYTIC EHRLICHIA AGENT) IGG <1:64, IgM <1:20
___ 05:20PM BLOOD ZIKA, SEROLOGY AND/OR PCR-PND
___ 05:20PM BLOOD DENGUE FEVER ANTIBODIES (IGG, IGM)-PND
___ 05:20PM BLOOD CHI___ ANTIBODIES W/ REFLEX(ES) TO 
TITER-negative

IMAGING STUDIES
CXR PA/LAT ___
The lungs are clear. The pulmonary vasculature is unremarkable. 
No pleural 
abnormalities. The cardiomediastinal silhouette is unremarkable. 
No acute 
osseous abnormalities. No pneumonia.

DISCHARGE LABS
___ 05:53AM BLOOD WBC-2.6* RBC-5.02 Hgb-14.2 Hct-41.9 
MCV-84 MCH-28.3 MCHC-33.9 RDW-13.2 RDWSD-40.6 Plt Ct-89*
___ 05:53AM BLOOD Neuts-20* Lymphs-59* Monos-9 Eos-2 Baso-1 
Atyps-7* Plasma-2* AbsNeut-0.52* AbsLymp-1.72 AbsMono-0.23 
AbsEos-0.05 AbsBaso-0.03
___ 05:53AM BLOOD RBC Mor-WITHIN NOR
___ 05:53AM BLOOD ___ PTT-32.4 ___
___ 05:53AM BLOOD Glucose-82 UreaN-10 Creat-0.7 Na-144 
K-3.8 Cl-103 HCO3-27 AnGap-14
___ 05:53AM BLOOD ALT-42* AST-36 LD(LDH)-305* AlkPhos-42 
TotBili-0.5
___ 05:53AM BLOOD Albumin-3.9 Calcium-8.7 Phos-3.3 Mg-2.1

MICROBIOLOGY
Malaria Antigen Test (Final ___: 
      Negative for Plasmodium antigen.
URINE CULTURE (Final ___: 
      VIRIDANS STREPTOCOCCI.    10,000-100,000 CFU/mL

LABS PENDING:
___ 05:20PM BLOOD ZIKA, SEROLOGY AND/OR PCR-PND
___ 05:20PM BLOOD DENGUE FEVER ANTIBODIES (IGG, IGM)-PND
 
Brief Hospital Course:
___ male with a history of recent travel to the 
___, who presents with fever, total body pain, 
vomiting, recent vesicular penile rash, and 10 pound weight 
loss. Seen by infectious disease, infectious workup pending. 
Patient  feeling better and labs looking improved, however we 
did not have a safe discharge plan in place because he does not 
currently have insurance. Recommended that patient stay another 
night so that we could get this sorted out prior to discharge, 
however PATIENT LEFT AGAINST MEDICAL ADVICE.

TRANSITIONAL ISSUES:
====================
[ ] not immune to HBV, will need vaccine as outpatient
[ ] please check CBC/diff given ANC 520 on discharge ___ and 
follow up infectious workup. 

ACTIVE PROBLEMS:
=================
# Fever / myalgias / vomiting / leukopenia / thrombocytopenia / 
transaminitis
Infectious source not identified during admission. DDx includes 
Dengue (felt to be higher on DDx in light of travel hx, 
leukopenia, and thrombocytopenia), Zika, Chikungunya, acute 
HIV/other STI given recent penile rash, Anaplasma/Babesia. 
Parasite smear negative x2. Malaria Ag test negative. HIV 
antibody negative, however if this is acute infection may not be 
positive for a few weeks. HCV antibody negative. Negative HBV 
serologies. Flu neg. Treponemal Ab neg. CMV IgM equivocal; EBV 
IGM negative. EBV IgG, CMV IgG positive. HAV IgM negative.  
Parvovirus IgG positive; IgM negative. Absolute lymphocyte count 
270 on admission which has improved to >1000 on ___ However, 
absolute neutrophil count 1620 on admission -> 520 on discharge. 
CXR and UA/UCx neg.  CRP 9. Chlamydia/gonorrhea neg. Other w/u 
pending as below. 
-Please obtain repeat CBC/diff to ensure neutropenia improving 
as infection resolves.
-Labs to follow up on: Dengue, ___ (may request from medical 
records ___

# AMA:
Patient elected to leave AMA on ___ when his symptoms resolved. 
Pending issues included improvement in his ANC as well as safe 
f/u plan. He does not have insurance and thus no PCP follow up 
at time of discharge. However patient decided to leave AGAINST 
MEDICAL ADVICE. Contact patient 4 times after discharge (see 2 
phone notes on this) and he has been able to establish Mass 
Heatlh and f/u w ___ as per telephone note dated ___. This 
discharge summary as well as fax of labs sent. 
 
Medications on Admission:
None
 
Discharge Medications:
1.  Acetaminophen 1000 mg PO Q6H:PRN Pain - Mild/Fever  

 
Discharge Disposition:
Home
 
Discharge Diagnosis:
Fever
Leukopenia
Thrombocytopenia

 
Discharge Condition:
Mental Status: Clear and coherent.
Level of Consciousness: Alert and interactive.
Activity Status: Ambulatory - Independent.
Patient is deciding to leave against medical advice.

 
Discharge Instructions:
Dear Mr. ___,  
It was a pleasure taking care of you at the ___ 
___!  

WHY WAS I IN THE HOSPITAL?  
==========================  
-You were in the hospital because of fevers, 10 pound weight 
loss, body pain, and vomiting.

WHAT HAPPENED IN THE HOSPITAL?  
==============================  
-While in the hospital you received fluids and Tylenol with 
improvement in your symptoms.  We also sent many tests looking 
for signs of infection that would cause the symptoms to came in 
with.

WHAT SHOULD I DO WHEN I GO HOME?  
================================  
-It is very important that you establish care with a primary 
care provider that can see you and interpret the lab results we 
got here.  In order to do that you would have to apply for 
insurance and those sheets were given to you before you left.  
The main lab work you would have to follow-up are those for 
potential infections for which we need treatment for it if it is 
positive. 

Know that you are leaving AGAINST MEDICAL ADVICE because we 
would like for you to stay for one more day in order to secure 
appointments with a new primary care physician.  Once you apply 
for insurance, you are more than welcome to establish care with 
one of our physicians at HealthCare ___ by calling ___.

The counts of your cells that fight infection continue to remain 
low and so we advised good hand hygiene.  If you were to develop 
another fever please contact your primary care physician because 
this might be a sign of a serious infection.

Thank you for allowing us to be involved in your care, we wish 
you all the best!  
Your ___ Healthcare Team
 
Followup Instructions:
___